US20010014751A1
15.0 g (54 mmol) of CH2(1-indanone)2, prepared as described above, and 24.3 g (2.4 equiv.) of tosyl hydrazine were placed in a 250 ml round-bottom flask and 100 ml EtOH added. Then 10 drops of 37% HCl were added and the reaction mixture brought to reflux under nitrogen. On coming to reflux, everything dissolved and a clear brown solution resulted. After refluxing for 10 minutes, a white jelly-like material began to precipitate. This was washed with MeOH and then dried under vacuum. This gave 21 g (63%) of the bis(hydrazone). 10.8 g (17.6 mmol) of the bis(hydrazone), suspended in 250 ml N,N,N′,N′-tetramethyl-ethylene diamine (TMEDA) in a large Schlenk tube, was slowly added to 15.2 g (141 mmol, 8 equivalents) of lithium diisopropylamide, dissolved in 50 ml TMEDA and cooled to 0° C. The solution changed from yellow to purple and then to dark purple. It was allowed to warm to room temperature and then decanted onto ice to give a yellow solution. On washing with 100 ml aqueous NaHCO3 the solution became purple. This was extracted copiously (3×250 ml) with Et2O, the Et2O extracts combined and dried over MgSO4. These were evaporated to a brown oil which was extracted with pentane. Working up of the pentane extracts afforded 0.59 g (14%) of bis(2-indenyl)methane.

reactant | tosyl hydrazine | 24.3 g, 2.4 equiv. | S(=O)(=O)(C1=CC=C(C)C=C1)NN | C7H10N2O2S
reactant | EtOH | 100 ml | CCO | C2H6O
reactant | lithium diisopropylamide | 141 mmol, 15.2 g, 8 equivalents | C(C)(C)[N-]C(C)C.[Li+]
catalyst | HCl | 10 drops | Cl | ClH
solvent | N,N,N′,N′-tetramethyl-ethylene diamine | 250 ml | CN(CCN(C)C)C | C6H16N2
solvent | TMEDA | 50 ml | CN(CCN(C)C)C | C6H16N2
product | bis(2-indenyl)methane | 0.59 g, 14% | C1C(=CC2=CC=CC=C12)CC=1CC2=CC=CC=C2C1 | C19H16
